US07795282B2
Step B: Preparation of 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-N,N-dimethylthiazole-4-carboxamide:
To a solution of dimethylamine (0.102 mL, 2.0 M, 0.2 mmol) in 1 mL of anhydrous THF was added trimethylaluminum (0.102 mL, 2.0 M, 0.2 mmol). The solution was stirred at room temperature for 15 minutes, then treated with a solution of ethyl 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)thiazole-4-carboxylate (0.035 g, 0.07 mmol) in 0.5 mL of anhydrous THF. After stirring at room temperature for 16 hours the mixture was treated with 0.5 N aqueous Rochelle's salt solution (10 mL), then partitioned between saturated NH4Cl (10 mL) and EtOAc (10 mL). The aqueous layer was extracted with EtOAc (2×10 mL) and the combined organic phases were washed with brine (10 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (20-35% ethyl acetate/hexanes) to afford the desired product as a yellow gum, 0.026 g, 74%.

reactant | dimethylamine | 0.2 mmol, 2.0 M, 0.102 mL | CNC | C2H7N
reactant | trimethylaluminum | 0.2 mmol, 2.0 M, 0.102 mL | C[Al](C)C
reactant | ethyl 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)thiazole-4-carboxylate | 0.07 mmol, 0.035 g | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=C(N1)C(=O)OCC)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H20F2N6O2S2
reactant | Rochelle's salt | 0.5 N, 10 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-N,N-dimethylthiazole-4-carboxamide | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=C(N1)C(=O)N(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H21F2N7OS2
